### PR TITLE
feat(ErdosProblems): 1049

### LINKED ISSUE #1093: Erdős Problem 1049
### What is the conjecture

https://www.erdosproblems.com/1049

  Let $t>1$ be a rational number. Is
$$\sum_{n=1}^\infty\frac{1}{t^n-1}=\sum_{n=1}^\infty \frac{\tau(n)}{t^n}$$
irrational, where $\tau(n)$ counts the divisors of $n$?

Status:  open

### PR DESCRIPTION
**Pull request by danielchin**
Closes #1093 

Formalizing Erdos Problem 1049: https://www.erdosproblems.com/1049

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1049.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/1049.lean:1]: perhaps you could add as a sanity check something to the effect showing that the two sums are the same, like
```lean
abbrev τ  := fun (n : ℕ) => n.divisors.card

@[category test, AMS 11]
theorem sum_equivalence : ∀ t : ℚ,
     (∑' n : ℕ+, 1 / ((t : ℝ) ^ (n : ℕ) - 1)) = (∑' n : ℕ+, τ n / ((t : ℝ) ^ (n : ℕ))) := by
  norm_num [τ, false, ← (Equiv.pnatEquivNat.symm).tsum_eq]
  use @fun (M) => if a : M=0 then(? _)else if a:abs (M: ℝ)< (1) then ((symm) ? _)else(? _)
  · hint
  · repeat rw[tsum_eq_zero_of_not_summable (one_pos.not_le<|ge_of_tendsto' ·.norm.tendsto_atTop_zero fun and=>?_)]
    · use absurd (tendsto_nhds_unique ((((summable_geometric_of_abs_lt_one a).comp_injective Nat.succ_injective).tendsto_atTop_zero.sub_const _).inv₀ (by norm_num)) (‹Summable _›:).tendsto_atTop_zero)<|by norm_num
    field_simp[a.le, one_le_div,(pow_le_one₀ _ _).trans]
    exact (pow_le_one₀ (norm_nonneg _) a.le).trans (by norm_num)
  rcases (not_lt.mp (@ a)).eq_or_lt
  · cases eq_or_eq_neg_of_abs_eq (.symm (by valid))
    · norm_num[*,tsum_eq_zero_of_not_summable (one_pos.not_le.comp (ge_of_tendsto' ·.tendsto_atTop_zero ↑ _))]
    use(tsum_eq_zero_of_not_summable fun and=>((and.comp_injective (mul_right_injective₀ two_ne_zero)).norm.tendsto_atTop_zero.eventually_ne one_half_pos.ne).exists.elim (by norm_num[*])).trans (tsum_eq_zero_of_not_summable ?_).symm
    exact (one_pos).not_le.comp (ge_of_tendsto' ·.norm.tendsto_atTop_zero (by norm_num [*]))
  rw [←eq_comm,tsum_congr fun and=>by rw [div_eq_mul_inv, ←inv_pow,Nat.divisors, Finset.card_filter]]
  push_cast[inv_pow, not_lt, Finset.sum_mul, Finset.sum_Ico_eq_sum_range]at*
  convert(tsum_comm (@ _)).symm using 03
  convert (tsum_eq_sum fun and n=>_).symm
  · rw[if_neg (n.comp (List.mem_range.2 ∘by valid ∘Nat.eq_zero_of_dvd_of_lt)),zero_mul]
  · by_cases h:Summable fun (n : ℕ) =>ite (1+by bound ∣ (n + 1)) (1: ℝ) 0*(M^ (n + 1): ℝ)⁻¹
    · letI:=(hasSum_nat_add_iff' (1+‹_›)).2 h.hasSum
      refine inv_eq_of_mul_eq_one_left ((mul_sub_one _ _).trans (sub_eq_of_eq_add (eq_add_of_sub_eq' (by_contra (absurd (this.unique ((h.hasSum.mul_left (M^ (by valid+1): ℝ)⁻¹).congr_fun ?_) ) ∘?_)))))
      · norm_num[add_comm 1,mul_comm, add_right_comm,pow_add,←mul_assoc]
      · field_simp[add_comm, true,Nat.succ_lt_succ ∘ Finset.mem_range.mp, false,Nat.not_dvd_of_pos_of_lt ↑(Nat.succ_pos _), Finset.sum_range_succ]
    · cases (h.comp ( ((summable_geometric_of_lt_one) (inv_nonneg.2 ↑(abs_nonneg ↑M)) (by((bound)))).comp_injective (@Nat.succ_injective)).of_norm_bounded (by cases@em <| (1) +by·bound ∣ ·+1 with ·field_simp [h, true,le_of_lt, true,norm, false,abs_div, false, *]))
  · infer_instance
  · infer_instance
  · infer_instance
  · refine .of_norm ((summable_prod_of_nonneg fun and=>norm_nonneg _).2<|.symm ? _)
    use((hasSum_coe_mul_geometric_of_norm_lt_one.comp (norm_inv (M: ℝ)).trans_lt (by bound)).summable.comp_injective Nat.succ_injective).norm.of_nonneg_of_le ( fun and=>tsum_nonneg (by bound)) fun and=>?_
    · exact (summable_of_ne_finset_zero (s:=.range ·.succ) fun and μ=>by rw [Function.uncurry, if_neg (μ.comp (List.mem_range.2 ∘by valid ∘Nat.eq_zero_of_dvd_of_lt)),zero_mul,norm_zero])
    · use(tsum_eq_sum (s:=.range and.succ) (by simp_all[add_comm,Nat.succ_le,Nat.not_dvd_of_pos_of_lt])).trans_le (( Finset.sum_le_sum fun A B=>norm_mul_le_of_le (show _ ≤ 1by bound) (refl _)).trans (by field_simp[abs_of_nonneg]))
```

but just with a `sorry`, or really nice proof, not with this AlphaProof proof. Perhaps something useful for this is in mathlib?

Comment (mo271) [reply FormalConjectures/ErdosProblems/1049.lean:1]: perhaps with a more original name than `sum_equivalence`?

**Review by mo271 — APPROVED** [review]
Looks great, thanks.
Just one suggestion for a test statement...

File: FormalConjectures/ErdosProblems/1049.lean
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1049.lean:1]: Fiddled around with this proof for a good while, but couldn't manage to get it looking nicer + compile properly, so leaving this at a `sorry`. I also checked around mathlib, but didn't see anything that would help simplify this.

**Review by mo271 — APPROVED** [review]
thanks again
